US08609688B2
Synthesis of N-{1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperidin-4-yl}acetamide
A mixture of N-[1-(3-bromophenyl)piperidin-4-yl]acetamide (338 mg, 1.14 mmol), bis(pinacolato)diboron (347 mg, 1.36 mmol), Pd(dppf)Cl2.DCM (47 mg, 0.0570 mmol) and potassium acetate (336 mg, 3.42 mmol) in dioxane (3 mL) was heated at 80° C. for 18 hours under nitrogen. After cooling to room temperature, the mixture was diluted with EtOAc and filtered through a Celite pad. The combined filtrate and washings were concentrated. The residue was purified by silica gel column chromatography (CH2Cl2/MeOH=100:0→90:10) to afford desired product (397 mg, quant) as dark brown solid.

reactant | N-[1-(3-bromophenyl)piperidin-4-yl]acetamide | 1.14 mmol, 338 mg | BrC=1C=C(C=CC1)N1CCC(CC1)NC(C)=O | C13H17BrN2O
reactant | bis(pinacolato)diboron | 1.36 mmol, 347 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | DCM | 0.0570 mmol, 47 mg | C(Cl)Cl | CH2Cl2
reactant | potassium acetate | 3.42 mmol, 336 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-{1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperidin-4-yl}acetamide | 397 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1CCC(CC1)NC(C)=O)C | C19H29BN2O3
